US06890940B2
N,N′-Bis[2-(3,4,5-trimethoxyphenyl)-5-pyridyl]-N,N′-dimethyl-3-(1-pyrrolidinyl)-1,5-pentanediamine trihydrochloride
To a solution of N,N′-bis[2-(3,4,5-trimethoxyphenyl)-5-pyridyl]-N,N′-dimethyl-3-(1-pyrrolidinyl)-1,5-pentanediamine (49.6 mg, 0.0724 mmol) in ethanol (5.0 mL) was added 1.0 M hydrochloric acid solution (0.40 mL, 0.40 mmol), and the reaction mixture was concentrated under reduced pressure. Ethanol (10 mL) was added to the residue, and the resulting mixture was concentrated under reduced pressure to yield the title compound as a pale yellow amorphous powder (46.0 mg, yield: 71%).

reactant | N,N′-bis[2-(3,4,5-trimethoxyphenyl)-5-pyridyl]-N,N′-dimethyl-3-(1-pyrrolidinyl)-1,5-pentanediamine | 0.0724 mmol, 49.6 mg | COC=1C=C(C=C(C1OC)OC)C1=NC=C(C=C1)N(CCC(CCN(C)C=1C=CC(=NC1)C1=CC(=C(C(=C1)OC)OC)OC)N1CCCC1)C | C39H51N5O6
reactant | hydrochloric acid | 0.40 mmol, 1.0 M, 0.40 mL | Cl | ClH
solvent | ethanol | 5.0 mL | C(C)O | C2H6O
product | N,N′-Bis[2-(3,4,5-trimethoxyphenyl)-5-pyridyl]-N,N′-dimethyl-3-(1-pyrrolidinyl)-1,5-pentanediamine trihydrochloride | 46.0 mg, yield: 71% | Cl.Cl.Cl.COC=1C=C(C=C(C1OC)OC)C1=NC=C(C=C1)N(CCC(CCN(C)C=1C=CC(=NC1)C1=CC(=C(C(=C1)OC)OC)OC)N1CCCC1)C | InChI=1S/C39H51N5O6.3ClH/c1-42(30-11-13-32(40-25-30)27-21-34(45-3)38(49-7)35(22-27)46-4)19-15-29(44-17-9-10-18-44)16-20-43(2)31-12-14-33(41-26-31)28-23-36(47-5)39(50-8)37(24-28)48-6;;;/h11-14,21-26,29H,9-10,15-20H2,1-8H3;3*1H
